US07696350B2
7-(2,2,6,6-Tetramethyl-piperidin-4-yloxy)-chromen-2-one hydrochloric acid salt
A mixture of 7-(1,2,2,6,6-pentamethyl-piperidin-4-yloxy)-chromen-2-one (0.69 g, 2.2 mmol), diethylazodicarboxylate (1.0 ml, 6.6 ml) and toluene (50 ml) was stirred at 115° C. for 15 h. Hydrochloric acid (10 ml, 2 N) was added to the mixture and was refluxed for 1 h. The mixture was cooled and the product precipitated as the hydrochloric acid salt. Yield 0.26 g (37%). Mp>300° C.

reactant | 7-(1,2,2,6,6-pentamethyl-piperidin-4-yloxy)-chromen-2-one | 2.2 mmol, 0.69 g | CN1C(CC(CC1(C)C)OC1=CC=C2C=CC(OC2=C1)=O)(C)C | C19H25NO3
reactant | diethylazodicarboxylate | 1.0 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | Hydrochloric acid | 2 N, 10 ml | Cl | ClH
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 7-(2,2,6,6-Tetramethyl-piperidin-4-yloxy)-chromen-2-one hydrochloric acid salt | Cl.CC1(NC(CC(C1)OC1=CC=C2C=CC(OC2=C1)=O)(C)C)C | InChI=1S/C18H23NO3.ClH/c1-17(2)10-14(11-18(3,4)19-17)21-13-7-5-12-6-8-16(20)22-15(12)9-13;/h5-9,14,19H,10-11H2,1-4H3;1H
